US07332485B2
3-Butyl-Cyclobutane-1,1-Dicarboxylic Acid Dimethyl Ester
A solution of 3-butyl-cyclobutanecarboxylic acid methyl ester (7.75 g, 45.6 mmol) in THF (30 mL) was added dropwise to a solution of lithium diisopropylamine (7.26 g, 68.4 mmol) in THF (70 mL) at −78° C. After stirring for 1.5 h at the same temperature, methyl chloroformate (6.46 g, 68.4 mmol) was added slowly and the mixture was allowed to warm to room temperature. After 18 h the reaction mixture was quenched with saturated aqueous NH4Cl solution (200 mL) and the aqueous residue was extracted with EtOAc (75 mL×5). The combined organic layers were dried (MgSO4). After removal of the solvent under reduced pressure, purification by flash column chromatography using an eluting system of hexane/EtOAc (95:5) yielded the title compound as a clear yellow oil (8.37 g, 81%). MH+229.

reactant | 3-butyl-cyclobutanecarboxylic acid methyl ester | 45.6 mmol, 7.75 g | COC(=O)C1CC(C1)CCCC | C10H18O2
reactant | lithium diisopropylamine | 68.4 mmol, 7.26 g | C(C)(C)NC(C)C.[Li]
reactant | methyl chloroformate | 68.4 mmol, 6.46 g | ClC(=O)OC | C2H3ClO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 3-Butyl-Cyclobutane-1,1-Dicarboxylic Acid Dimethyl Ester | 8.37 g, 81% | COC(=O)C1(CC(C1)CCCC)C(=O)OC | C12H20O4
